US04766233
Under a dry nitrogen atmosphere a solution of 1.0 g (0.003 mole) of 2-(2,4-dichloro-5-hydroxyphenyl)-4-methyl-1,2,4-triazine-3,5(2H,4H)-dione in 15 mL of N,N-dimethylformamide was added slowly to a stirred mixture of 0.09 g (0.0037 mole) of sodium hydride in 15 mL of N,N-dimethylformamide. After complete addition, the mixture was stirred at 28° C. until hydrogen evolution ceased, then at 45° C. for 30 minutes. The reaction mixture was cooled to room temperature, and a solution of 0.57 g (0.0038 mole) of 3-bromo-1-propyne in 5 mL of N,N-dimethylformamide was added. The mixture was stirred at room temperature for approximately 18 hours, poured into water, and extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and filtered. The solvent was removed from the filtrate by evaporation under reduced pressure to leave an oil. The oil was purified by preparative chromatography on silica gel, eluting with ethyl acetate:heptane (1:1), to yield 0.8 g of 2-[2,4-dichloro-5-(2-propynyloxy)phenyl]-4-methyl-1,2,4-triazine-3,5(2H,4H)-dione (mp 119°-120° C.), Compound 20 in the tables.

reactant | 2-(2,4-dichloro-5-hydroxyphenyl)-4-methyl-1,2,4-triazine-3,5(2H,4H)-dione | 0.003 mole, 1.0 g | ClC1=C(C=C(C(=C1)Cl)O)N1N=CC(N(C1=O)C)=O | C10H7Cl2N3O3
reactant | sodium hydride | 0.0037 mole, 0.09 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 3-bromo-1-propyne | 0.0038 mole, 0.57 g | BrCC#C | C3H3Br
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-[2,4-dichloro-5-(2-propynyloxy)phenyl]-4-methyl-1,2,4-triazine-3,5(2H,4H)-dione | 0.8 g | ClC1=C(C=C(C(=C1)Cl)OCC#C)N1N=CC(N(C1=O)C)=O | C13H9Cl2N3O3
